*-- pdngen: spice deck generated for chip 'chiplet5' PDN
*-- die chiplet5:  W/H: 0.002/0.002
*-- die chiplet5:  metal layers: 2


.subckt chiplet5
+ns_pad_port_0_0
+nd_pad_port_0_1
+ns_pad_port_0_2
+nd_pad_port_0_3
+nd_pad_port_1_0
+ns_pad_port_1_1
+nd_pad_port_1_2
+ns_pad_port_1_3
+ns_pad_port_2_0
+nd_pad_port_2_1
+ns_pad_port_2_2
+nd_pad_port_2_3
+nd_pad_port_3_0
+ns_pad_port_3_1
+nd_pad_port_3_2
+ns_pad_port_3_3
*-- p/g port #: 8/8
+nd_1_0_7000_1000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
rs_1_2_0_0_0 ns_1_0_0_0 ns_1_0_2000_0 0.016324
rs_1_2_0_0_1 ns_1_0_2000_0 ns_1_0_4000_0 0.016324
rs_1_2_0_0_2 ns_1_0_4000_0 ns_1_0_6000_0 0.016324
rs_1_2_0_0_3 ns_1_0_6000_0 ns_1_0_8000_0 0.016324
rs_1_2_0_1_0 ns_1_0_0_2000 ns_1_0_2000_2000 0.016324
rs_1_2_0_1_1 ns_1_0_2000_2000 ns_1_0_4000_2000 0.016324
rs_1_2_0_1_2 ns_1_0_4000_2000 ns_1_0_6000_2000 0.016324
rs_1_2_0_1_3 ns_1_0_6000_2000 ns_1_0_8000_2000 0.016324
rs_1_2_0_2_0 ns_1_0_0_4000 ns_1_0_2000_4000 0.016324
rs_1_2_0_2_1 ns_1_0_2000_4000 ns_1_0_4000_4000 0.016324
rs_1_2_0_2_2 ns_1_0_4000_4000 ns_1_0_6000_4000 0.016324
rs_1_2_0_2_3 ns_1_0_6000_4000 ns_1_0_8000_4000 0.016324
rs_1_2_0_3_0 ns_1_0_0_6000 ns_1_0_2000_6000 0.016324
rs_1_2_0_3_1 ns_1_0_2000_6000 ns_1_0_4000_6000 0.016324
rs_1_2_0_3_2 ns_1_0_4000_6000 ns_1_0_6000_6000 0.016324
rs_1_2_0_3_3 ns_1_0_6000_6000 ns_1_0_8000_6000 0.016324
rs_1_2_0_4_0 ns_1_0_0_8000 ns_1_0_2000_8000 0.016324
rs_1_2_0_4_1 ns_1_0_2000_8000 ns_1_0_4000_8000 0.016324
rs_1_2_0_4_2 ns_1_0_4000_8000 ns_1_0_6000_8000 0.016324
rs_1_2_0_4_3 ns_1_0_6000_8000 ns_1_0_8000_8000 0.016324
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
rs_2_1_0_0_0 ns_2_0_0_0 ns_2_0_0_2000 0.016324
rs_2_1_0_0_1 ns_2_0_0_2000 ns_2_0_0_4000 0.016324
rs_2_1_0_0_2 ns_2_0_0_4000 ns_2_0_0_6000 0.016324
rs_2_1_0_0_3 ns_2_0_0_6000 ns_2_0_0_8000 0.016324
rs_2_1_0_1_0 ns_2_0_2000_0 ns_2_0_2000_2000 0.016324
rs_2_1_0_1_1 ns_2_0_2000_2000 ns_2_0_2000_4000 0.016324
rs_2_1_0_1_2 ns_2_0_2000_4000 ns_2_0_2000_6000 0.016324
rs_2_1_0_1_3 ns_2_0_2000_6000 ns_2_0_2000_8000 0.016324
rs_2_1_0_2_0 ns_2_0_4000_0 ns_2_0_4000_2000 0.016324
rs_2_1_0_2_1 ns_2_0_4000_2000 ns_2_0_4000_4000 0.016324
rs_2_1_0_2_2 ns_2_0_4000_4000 ns_2_0_4000_6000 0.016324
rs_2_1_0_2_3 ns_2_0_4000_6000 ns_2_0_4000_8000 0.016324
rs_2_1_0_3_0 ns_2_0_6000_0 ns_2_0_6000_2000 0.016324
rs_2_1_0_3_1 ns_2_0_6000_2000 ns_2_0_6000_4000 0.016324
rs_2_1_0_3_2 ns_2_0_6000_4000 ns_2_0_6000_6000 0.016324
rs_2_1_0_3_3 ns_2_0_6000_6000 ns_2_0_6000_8000 0.016324
rs_2_1_0_4_0 ns_2_0_8000_0 ns_2_0_8000_2000 0.016324
rs_2_1_0_4_1 ns_2_0_8000_2000 ns_2_0_8000_4000 0.016324
rs_2_1_0_4_2 ns_2_0_8000_4000 ns_2_0_8000_6000 0.016324
rs_2_1_0_4_3 ns_2_0_8000_6000 ns_2_0_8000_8000 0.016324
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rvs_1_0_0_0 ns_1_0_0_0 ns_2_0_0_0 0.005
rvs_1_0_0_1 ns_1_0_2000_0 ns_2_0_2000_0 0.005
rvs_1_0_0_2 ns_1_0_4000_0 ns_2_0_4000_0 0.005
rvs_1_0_0_3 ns_1_0_6000_0 ns_2_0_6000_0 0.005
rvs_1_0_0_4 ns_1_0_8000_0 ns_2_0_8000_0 0.005
rvs_1_0_1_0 ns_1_0_0_2000 ns_2_0_0_2000 0.005
rvs_1_0_1_1 ns_1_0_2000_2000 ns_2_0_2000_2000 0.005
rvs_1_0_1_2 ns_1_0_4000_2000 ns_2_0_4000_2000 0.005
rvs_1_0_1_3 ns_1_0_6000_2000 ns_2_0_6000_2000 0.005
rvs_1_0_1_4 ns_1_0_8000_2000 ns_2_0_8000_2000 0.005
rvs_1_0_2_0 ns_1_0_0_4000 ns_2_0_0_4000 0.005
rvs_1_0_2_1 ns_1_0_2000_4000 ns_2_0_2000_4000 0.005
rvs_1_0_2_2 ns_1_0_4000_4000 ns_2_0_4000_4000 0.005
rvs_1_0_2_3 ns_1_0_6000_4000 ns_2_0_6000_4000 0.005
rvs_1_0_2_4 ns_1_0_8000_4000 ns_2_0_8000_4000 0.005
rvs_1_0_3_0 ns_1_0_0_6000 ns_2_0_0_6000 0.005
rvs_1_0_3_1 ns_1_0_2000_6000 ns_2_0_2000_6000 0.005
rvs_1_0_3_2 ns_1_0_4000_6000 ns_2_0_4000_6000 0.005
rvs_1_0_3_3 ns_1_0_6000_6000 ns_2_0_6000_6000 0.005
rvs_1_0_3_4 ns_1_0_8000_6000 ns_2_0_8000_6000 0.005
rvs_1_0_4_0 ns_1_0_0_8000 ns_2_0_0_8000 0.005
rvs_1_0_4_1 ns_1_0_2000_8000 ns_2_0_2000_8000 0.005
rvs_1_0_4_2 ns_1_0_4000_8000 ns_2_0_4000_8000 0.005
rvs_1_0_4_3 ns_1_0_6000_8000 ns_2_0_6000_8000 0.005
rvs_1_0_4_4 ns_1_0_8000_8000 ns_2_0_8000_8000 0.005
id_0_0_0_0 nd_1_0_1000_1000 0 pwl(0 0.0 2.108e-01ns 0.0  2.608e-01ns 2.2e-02  5.723e-01ns 2.2e-02  6.223e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 11.2854
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 6.82162e-12
id_0_0_0_1 nd_1_0_3000_1000 0 pwl(0 0.0 8.644e-01ns 0.0  9.144e-01ns 1.8e-02  9.256e-01ns 1.8e-02  9.756e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 79.814
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 2.24477e-12
id_0_0_0_2 nd_1_0_5000_1000 0 pwl(0 0.0 4.202e-01ns 0.0  4.702e-01ns 4.2e-02  6.259e-01ns 4.2e-02  6.759e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 10.4233
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 1.73318e-11
id_0_0_0_3 nd_1_0_7000_1000 0 pwl(0 0.0 1.061e-01ns 0.0  1.561e-01ns 3.6e-03  9.322e-01ns 3.6e-03  9.822e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 30.3062
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 3.64681e-12
id_0_0_0_4 nd_1_0_9000_1000 0 pwl(0 0.0 1.129e-01ns 0.0  1.629e-01ns 2.1e-03  9.398e-01ns 2.1e-03  9.898e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 51.4461
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 2.18945e-12
id_0_0_0_5 nd_1_0_1000_3000 0 pwl(0 0.0 7.027e-01ns 0.0  7.527e-01ns 4.6e-02  8.789e-01ns 4.6e-02  9.289e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 11.2046
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 3.82029e-12
id_0_0_0_6 nd_1_0_3000_3000 0 pwl(0 0.0 3.855e-01ns 0.0  4.355e-01ns 1.5e-02  8.418e-01ns 1.5e-02  8.918e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 13.2943
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 1.29386e-11
id_0_0_0_7 nd_1_0_5000_3000 0 pwl(0 0.0 5.187e-01ns 0.0  5.687e-01ns 3.4e-02  6.796e-01ns 3.4e-02  7.296e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 16.2208
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 1.42117e-13
id_0_0_0_8 nd_1_0_7000_3000 0 pwl(0 0.0 8.184e-02ns 0.0  1.318e-01ns 2.1e-02  4.970e-01ns 2.1e-02  5.470e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 10.3272
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 3.95156e-13
id_0_0_0_9 nd_1_0_9000_3000 0 pwl(0 0.0 2.160e-01ns 0.0  2.660e-01ns 3.9e-03  6.743e-01ns 3.9e-03  7.243e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 50.2101
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 6.93455e-13
id_0_0_0_10 nd_1_0_1000_5000 0 pwl(0 0.0 3.477e-01ns 0.0  3.977e-01ns 5.2e-03  4.573e-01ns 5.2e-03  5.073e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 157.58
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 4.06441e-13
id_0_0_0_11 nd_1_0_3000_5000 0 pwl(0 0.0 8.074e-01ns 0.0  8.574e-01ns 5.1e-02  8.808e-01ns 5.1e-02  9.308e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 24.2483
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 2.74484e-12
id_0_0_0_12 nd_1_0_5000_5000 0 pwl(0 0.0 4.288e-02ns 0.0  9.288e-02ns 6.3e-03  4.406e-01ns 6.3e-03  4.906e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 35.9387
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 5.48132e-12
id_0_0_0_13 nd_1_0_7000_5000 0 pwl(0 0.0 1.809e-01ns 0.0  2.309e-01ns 1.2e-02  8.877e-01ns 1.2e-02  9.377e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 10.2748
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 1.23105e-11
id_0_0_0_14 nd_1_0_9000_5000 0 pwl(0 0.0 1.852e-01ns 0.0  2.352e-01ns 3.4e-02  2.773e-01ns 3.4e-02  3.273e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 28.8546
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 9.88041e-13
id_0_0_0_15 nd_1_0_1000_7000 0 pwl(0 0.0 3.225e-01ns 0.0  3.725e-01ns 3.6e-02  4.960e-01ns 3.6e-02  5.460e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 14.279
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 4.07564e-12
id_0_0_0_16 nd_1_0_3000_7000 0 pwl(0 0.0 4.534e-01ns 0.0  5.034e-01ns 1.2e-02  8.893e-01ns 1.2e-02  9.393e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 17.818
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 4.90665e-12
id_0_0_0_17 nd_1_0_5000_7000 0 pwl(0 0.0 5.882e-01ns 0.0  6.382e-01ns 2.2e-02  9.094e-01ns 2.2e-02  9.594e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 12.9524
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 1.38966e-12
id_0_0_0_18 nd_1_0_7000_7000 0 pwl(0 0.0 5.970e-01ns 0.0  6.470e-01ns 2.3e-02  6.546e-01ns 2.3e-02  7.046e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 67.2767
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 7.3288e-13
id_0_0_0_19 nd_1_0_9000_7000 0 pwl(0 0.0 7.411e-01ns 0.0  7.911e-01ns 1.4e-03  8.195e-01ns 1.4e-03  8.695e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 834.097
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 6.12119e-14
id_0_0_0_20 nd_1_0_1000_9000 0 pwl(0 0.0 4.240e-01ns 0.0  4.740e-01ns 2.3e-02  5.652e-01ns 2.3e-02  6.152e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 27.9651
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 1.91354e-12
id_0_0_0_21 nd_1_0_3000_9000 0 pwl(0 0.0 8.826e-01ns 0.0  9.326e-01ns 1.1e-02  9.472e-01ns 1.1e-02  9.972e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 125.462
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 1.4571e-12
id_0_0_0_22 nd_1_0_5000_9000 0 pwl(0 0.0 1.187e-01ns 0.0  1.687e-01ns 1.9e-02  5.555e-01ns 1.9e-02  6.055e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 10.8966
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 1.18405e-12
id_0_0_0_23 nd_1_0_7000_9000 0 pwl(0 0.0 7.044e-01ns 0.0  7.544e-01ns 1.8e-02  8.523e-01ns 1.8e-02  9.023e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 33.9417
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 1.25237e-12
id_0_0_0_24 nd_1_0_9000_9000 0 pwl(0 0.0 7.152e-01ns 0.0  7.652e-01ns 5.8e-02  7.928e-01ns 5.8e-02  8.428e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 19.8381
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 7.33634e-12
is_0_0_0_0 0 ns_1_0_0_0 pwl(0 0.0 3.653e-01ns 0.0  4.153e-01ns 1.6e-02  8.273e-01ns 1.6e-02  8.773e-01ns 0.0)
rsesr_0_0_0_0 ns_1_0_0_0 ns_1_0_0_0_ci 12.0274
cs_0_0_0_0 ns_1_0_0_0_ci 0 5.70796e-12
is_0_0_0_1 0 ns_1_0_2000_0 pwl(0 0.0 3.819e-01ns 0.0  4.319e-01ns 1.4e-02  8.357e-01ns 1.4e-02  8.857e-01ns 0.0)
rsesr_0_0_0_1 ns_1_0_2000_0 ns_1_0_2000_0_ci 14.1445
cs_0_0_0_1 ns_1_0_2000_0_ci 0 1.20646e-11
is_0_0_0_2 0 ns_1_0_4000_0 pwl(0 0.0 5.104e-01ns 0.0  5.604e-01ns 1.5e-02  8.671e-01ns 1.5e-02  9.171e-01ns 0.0)
rsesr_0_0_0_2 ns_1_0_4000_0 ns_1_0_4000_0_ci 17.1154
cs_0_0_0_2 ns_1_0_4000_0_ci 0 5.88604e-12
is_0_0_0_3 0 ns_1_0_6000_0 pwl(0 0.0 5.231e-01ns 0.0  5.731e-01ns 7.4e-03  9.252e-01ns 7.4e-03  9.752e-01ns 0.0)
rsesr_0_0_0_3 ns_1_0_6000_0 ns_1_0_6000_0_ci 30.1143
cs_0_0_0_3 ns_1_0_6000_0_ci 0 3.39055e-12
is_0_0_0_4 0 ns_1_0_8000_0 pwl(0 0.0 6.566e-01ns 0.0  7.066e-01ns 2.7e-02  7.276e-01ns 2.7e-02  7.776e-01ns 0.0)
rsesr_0_0_0_4 ns_1_0_8000_0 ns_1_0_8000_0_ci 47.7205
cs_0_0_0_4 ns_1_0_8000_0_ci 0 6.64702e-13
is_0_0_0_5 0 ns_1_0_0_2000 pwl(0 0.0 7.922e-01ns 0.0  8.422e-01ns 6.3e-02  8.680e-01ns 6.3e-02  9.180e-01ns 0.0)
rsesr_0_0_0_5 ns_1_0_0_2000 ns_1_0_0_2000_ci 18.9958
cs_0_0_0_5 ns_1_0_0_2000_ci 0 3.2904e-12
is_0_0_0_6 0 ns_1_0_2000_2000 pwl(0 0.0 4.763e-01ns 0.0  5.263e-01ns 9.9e-03  8.415e-01ns 9.9e-03  8.915e-01ns 0.0)
rsesr_0_0_0_6 ns_1_0_2000_2000 ns_1_0_2000_2000_ci 24.9371
cs_0_0_0_6 ns_1_0_2000_2000_ci 0 7.72432e-12
is_0_0_0_7 0 ns_1_0_4000_2000 pwl(0 0.0 3.418e-02ns 0.0  8.418e-02ns 3.4e-03  4.258e-01ns 3.4e-03  4.758e-01ns 0.0)
rsesr_0_0_0_7 ns_1_0_4000_2000 ns_1_0_4000_2000_ci 67.4726
cs_0_0_0_7 ns_1_0_4000_2000_ci 0 2.87562e-12
is_0_0_0_8 0 ns_1_0_6000_2000 pwl(0 0.0 1.715e-01ns 0.0  2.215e-01ns 5.0e-02  2.557e-01ns 5.0e-02  3.057e-01ns 0.0)
rsesr_0_0_0_8 ns_1_0_6000_2000 ns_1_0_6000_2000_ci 21.5355
cs_0_0_0_8 ns_1_0_6000_2000_ci 0 1.12681e-12
is_0_0_0_9 0 ns_1_0_8000_2000 pwl(0 0.0 3.062e-01ns 0.0  3.562e-01ns 1.9e-02  6.834e-01ns 1.9e-02  7.334e-01ns 0.0)
rsesr_0_0_0_9 ns_1_0_8000_2000 ns_1_0_8000_2000_ci 12.7446
cs_0_0_0_9 ns_1_0_8000_2000_ci 0 1.20634e-11
is_0_0_0_10 0 ns_1_0_0_4000 pwl(0 0.0 4.348e-01ns 0.0  4.848e-01ns 1.6e-02  8.134e-01ns 1.6e-02  8.634e-01ns 0.0)
rsesr_0_0_0_10 ns_1_0_0_4000 ns_1_0_0_4000_ci 15.3096
cs_0_0_0_10 ns_1_0_0_4000_ci 0 1.02229e-11
is_0_0_0_11 0 ns_1_0_2000_4000 pwl(0 0.0 4.491e-01ns 0.0  4.991e-01ns 8.4e-03  8.850e-01ns 8.4e-03  9.350e-01ns 0.0)
rsesr_0_0_0_11 ns_1_0_2000_4000 ns_1_0_2000_4000_ci 24.5654
cs_0_0_0_11 ns_1_0_2000_4000_ci 0 7.55444e-12
is_0_0_0_12 0 ns_1_0_4000_4000 pwl(0 0.0 5.786e-01ns 0.0  6.286e-01ns 1.3e-01  6.301e-01ns 1.3e-01  6.801e-01ns 0.0)
rsesr_0_0_0_12 ns_1_0_4000_4000 ns_1_0_4000_4000_ci 13.757
cs_0_0_0_12 ns_1_0_4000_4000_ci 0 2.25211e-12
is_0_0_0_13 0 ns_1_0_6000_4000 pwl(0 0.0 6.580e-01ns 0.0  7.080e-01ns 7.5e-02  7.299e-01ns 7.5e-02  7.799e-01ns 0.0)
rsesr_0_0_0_13 ns_1_0_6000_4000 ns_1_0_6000_4000_ci 16.7663
cs_0_0_0_13 ns_1_0_6000_4000_ci 0 1.94496e-12
is_0_0_0_14 0 ns_1_0_8000_4000 pwl(0 0.0 3.474e-01ns 0.0  3.974e-01ns 1.5e-02  8.078e-01ns 1.5e-02  8.578e-01ns 0.0)
rsesr_0_0_0_14 ns_1_0_8000_4000 ns_1_0_8000_4000_ci 12.6716
cs_0_0_0_14 ns_1_0_8000_4000_ci 0 4.99812e-12
is_0_0_0_15 0 ns_1_0_0_6000 pwl(0 0.0 4.818e-01ns 0.0  5.318e-01ns 2.8e-02  6.939e-01ns 2.8e-02  7.439e-01ns 0.0)
rsesr_0_0_0_15 ns_1_0_0_6000 ns_1_0_0_6000_ci 14.9935
cs_0_0_0_15 ns_1_0_0_6000_ci 0 1.28829e-11
is_0_0_0_16 0 ns_1_0_2000_6000 pwl(0 0.0 1.639e-01ns 0.0  2.139e-01ns 1.2e-03  8.747e-01ns 1.2e-03  9.247e-01ns 0.0)
rsesr_0_0_0_16 ns_1_0_2000_6000 ns_1_0_2000_6000_ci 101.739
cs_0_0_0_16 ns_1_0_2000_6000_ci 0 1.20523e-12
is_0_0_0_17 0 ns_1_0_4000_6000 pwl(0 0.0 6.190e-01ns 0.0  6.690e-01ns 5.8e-02  6.833e-01ns 5.8e-02  7.333e-01ns 0.0)
rsesr_0_0_0_17 ns_1_0_4000_6000 ns_1_0_4000_6000_ci 24.0981
cs_0_0_0_17 ns_1_0_4000_6000_ci 0 2.2244e-12
is_0_0_0_18 0 ns_1_0_6000_6000 pwl(0 0.0 7.575e-01ns 0.0  8.075e-01ns 9.8e-03  9.072e-01ns 9.8e-03  9.572e-01ns 0.0)
rsesr_0_0_0_18 ns_1_0_6000_6000 ns_1_0_6000_6000_ci 61.2293
cs_0_0_0_18 ns_1_0_6000_6000_ci 0 2.52622e-12
is_0_0_0_19 0 ns_1_0_8000_6000 pwl(0 0.0 4.410e-01ns 0.0  4.910e-01ns 1.8e-03  6.510e-01ns 1.8e-03  7.010e-01ns 0.0)
rsesr_0_0_0_19 ns_1_0_8000_6000 ns_1_0_8000_6000_ci 240.242
cs_0_0_0_19 ns_1_0_8000_6000_ci 0 3.53026e-13
is_0_0_0_20 0 ns_1_0_0_8000 pwl(0 0.0 1.294e-01ns 0.0  1.794e-01ns 4.4e-03  8.407e-01ns 4.4e-03  8.907e-01ns 0.0)
rsesr_0_0_0_20 ns_1_0_0_8000 ns_1_0_0_8000_ci 28.5564
cs_0_0_0_20 ns_1_0_0_8000_ci 0 5.11305e-13
is_0_0_0_21 0 ns_1_0_2000_8000 pwl(0 0.0 1.298e-01ns 0.0  1.798e-01ns 1.1e-01  1.845e-01ns 1.1e-01  2.345e-01ns 0.0)
rsesr_0_0_0_21 ns_1_0_2000_8000 ns_1_0_2000_8000_ci 14.8553
cs_0_0_0_21 ns_1_0_2000_8000_ci 0 7.85003e-12
is_0_0_0_22 0 ns_1_0_4000_8000 pwl(0 0.0 7.208e-01ns 0.0  7.708e-01ns 2.3e-02  8.893e-01ns 2.3e-02  9.393e-01ns 0.0)
rsesr_0_0_0_22 ns_1_0_4000_8000 ns_1_0_4000_8000_ci 23.7178
cs_0_0_0_22 ns_1_0_4000_8000_ci 0 6.21137e-12
is_0_0_0_23 0 ns_1_0_6000_8000 pwl(0 0.0 4.058e-01ns 0.0  4.558e-01ns 3.3e-02  6.069e-01ns 3.3e-02  6.569e-01ns 0.0)
rsesr_0_0_0_23 ns_1_0_6000_8000 ns_1_0_6000_8000_ci 13.5551
cs_0_0_0_23 ns_1_0_6000_8000_ci 0 5.64937e-12
is_0_0_0_24 0 ns_1_0_8000_8000 pwl(0 0.0 5.439e-01ns 0.0  5.939e-01ns 3.4e-02  7.079e-01ns 3.4e-02  7.579e-01ns 0.0)
rsesr_0_0_0_24 ns_1_0_8000_8000 ns_1_0_8000_8000_ci 16.2313
cs_0_0_0_24 ns_1_0_8000_8000_ci 0 4.51261e-13

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val154'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val155'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val156'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val157'
rd_add0 nd0 0 'esr35'
rd_add1 nd1 0 'esr36'
rd_add2 nd2 0 'esr37'
rd_add3 nd3 0 'esr38'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xs_pad_0_0 ns_pad_port_0_0 ns_pad_0_0 ubump_subckt
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xs_pad_0_2 ns_pad_port_0_2 ns_pad_0_2 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xs_pad_1_1 ns_pad_port_1_1 ns_pad_1_1 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xs_pad_1_3 ns_pad_port_1_3 ns_pad_1_3 ubump_subckt
xs_pad_2_0 ns_pad_port_2_0 ns_pad_2_0 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xs_pad_2_2 ns_pad_port_2_2 ns_pad_2_2 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xs_pad_3_1 ns_pad_port_3_1 ns_pad_3_1 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xs_pad_3_3 ns_pad_port_3_3 ns_pad_3_3 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rs_pad2via_0_0 ns_pad_0_0 ns_2_0_2000_2000  0.001
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rs_pad2via_0_2 ns_pad_0_2 ns_2_0_2000_6000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rs_pad2via_1_1 ns_pad_1_1 ns_2_0_4000_4000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rs_pad2via_1_3 ns_pad_1_3 ns_2_0_4000_8000  0.001
rs_pad2via_2_0 ns_pad_2_0 ns_2_0_6000_2000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rs_pad2via_2_2 ns_pad_2_2 ns_2_0_6000_6000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rs_pad2via_3_1 ns_pad_3_1 ns_2_0_8000_4000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001
rs_pad2via_3_3 ns_pad_3_3 ns_2_0_8000_8000  0.001

.ends chiplet5
